US08492549B2
1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid amide
To a mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (0.2 g, 0.87 mmol) and piperidine-3-carboxylic acid amide (0.13 g, 1.05 mmol) in acetonitrile (20 ml) was added K2CO3 (0.60 g, 4.36 mmol) and KI (0.72 g, 4.36 mmol). The reaction mixture was refluxed for 2 h. Water (100 ml) was then added. The reaction mixture was extracted with EtOAc (3×5 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (EtOAc/heptane, 50:50).

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 0.87 mmol, 0.2 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | piperidine-3-carboxylic acid amide | 1.05 mmol, 0.13 g | N1CC(CCC1)C(=O)N | C6H12N2O
reactant | K2CO3 | 4.36 mmol, 0.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 100 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidine-3-carboxylic acid amide | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)C(=O)N | C15H20N2O3
